US09290468B2
Methyl 4-fluoro-5-((2-fluorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate can be reacted with halogenations reagent (such as NIS) in the presence of acid at ambient temperature in appropriate solvent. The reaction normally completes within several hours (1-12 h, prefer 3-10 h). Methyl 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate is obtained after conventional workup.

reactant | Methyl 4-fluoro-5-((2-fluorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate | FC1=C(C(=CC2=C1N=NS2)C(=O)OC)NC2=C(C=CC=C2)F | C14H9F2N3O2S
reactant | NIS | C1CC(=O)N(C1=O)I | C4H4INO2
product | Methyl 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate | FC1=C(C(=CC2=C1N=NS2)C(=O)OC)NC2=C(C=C(C=C2)I)F | C14H8F2IN3O2S
